US04882330
1-Phenoxy-4-[4-(4-acetvlaminophenyl)-1-piperazinyl]-2-butanol
Following the procedure of Example 25, the title compound is prepared from 4-chloro-1-phenoxy-2-butanol and N-[4-(1-piperazinyl)phenyl]acetamide.

reactant | 4-chloro-1-phenoxy-2-butanol | ClCCC(COC1=CC=CC=C1)O | C10H13ClO2
reactant | N-[4-(1-piperazinyl)phenyl]acetamide | N1(CCNCC1)C1=CC=C(C=C1)NC(C)=O | C12H17N3O
product | 1-Phenoxy-4-[4-(4-acetvlaminophenyl)-1-piperazinyl]-2-butanol | O(C1=CC=CC=C1)CC(CCN1CCN(CC1)C1=CC=C(C=C1)NC(C)=O)O | C22H29N3O3
